US07842715B2
To a solution of 4-nitrobenzoyl chloride (1.8 g, 10 mmol) and diisopropylethylamine (2.8 mL, 20 mmol) in THF at room temperature is added 3-(dimethylamino)pyrrolidine (1.4 mL, 11 mmol). The reaction is stirred for 2 hours at room temperature and concentrated in vacuo to give 3-dimethylamino-1-(4-nitrobenzoyl)pyrrolidine, identified by HPLC and MS [264.3 m/e (M+H)] analyses.

reactant | 4-nitrobenzoyl chloride | 10 mmol, 1.8 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | diisopropylethylamine | 20 mmol, 2.8 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-(dimethylamino)pyrrolidine | 11 mmol, 1.4 mL | CN(C1CNCC1)C | C6H14N2
solvent | THF | C1CCOC1 | C4H8O
product | 3-dimethylamino-1-(4-nitrobenzoyl)pyrrolidine | CN(C1CN(CC1)C(C1=CC=C(C=C1)[N+](=O)[O-])=O)C | C13H17N3O3
